US07351719B2
183) (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-N-(4-piperidin-1-ylmethyl-phenyl)-acrylamide
Prepared analogously to Example 143 starting from (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-acrylic acid (Z34b) and 4-piperidin-1-ylmethyl-phenylamine. The crude product was purified by column chromatography (silica gel, dichloromethane/EtOH/conc. aqueous ammonia 50:10:0.1).

reactant | (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-acrylic acid | ClC1=CC=C(C=C1)C=1C=CC(=NC1)/C=C/C(=O)O | C14H10ClNO2
reactant | 4-piperidin-1-ylmethyl-phenylamine | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
product | (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-N-(4-piperidin-1-ylmethyl-phenyl)-acrylamide | ClC1=CC=C(C=C1)C=1C=CC(=NC1)/C=C/C(=O)NC1=CC=C(C=C1)CN1CCCCC1 | C26H26ClN3O
